### PR TITLE
feat: rbInv erase

### PR DESCRIPTION
**Pull request by Daniel1854**

### CODE REVIEW

File: Filrb/Internal/Invariants/RBInv.lean [hunk 1]
```diff
@@ -88,6 +106,46 @@ omit [Preorder α] [LawfulOrd α] in
...
+omit [Preorder α] [Ord α] [LawfulOrd α] in
+@[simp]
+theorem appendTrees_nil {t : Raw α} :
+    t.appendTrees (nil : Raw α) = t := by
+  cases t <;> simp [appendTrees]
+
+omit [Preorder α] [Ord α] [LawfulOrd α] in
+@[simp]
+theorem black_of_appendTrees_nil {t : Raw α} :
+    rootColor (t.appendTrees (nil : Raw α)) = rootColor t := by
```
Comment (hargoniX) [inline Filrb/Internal/Invariants/RBInv.lean]: This lemma should be trivially proven by `simp` and thus doesn't need to be written out.

File: Filrb/Internal/Invariants/RBInv.lean [hunk 2]
```diff
@@ -88,6 +106,46 @@ omit [Preorder α] [LawfulOrd α] in
...
+  aesop (add norm [appendTrees, rootColor])
+
+omit [Preorder α] [Ord α] [LawfulOrd α] in
+@[simp]
+theorem black_of_nil_appendTrees {t : Raw α} :
+    rootColor ((nil : Raw α).appendTrees t) = rootColor t := by
```
Comment (hargoniX) [inline Filrb/Internal/Invariants/RBInv.lean]: This lemma should be trivially proven by `simp` and thus doesn't need to be written out.

File: Filrb/Internal/Invariants/RBInv.lean [hunk 3]
```diff
@@ -218,48 +278,262 @@ theorem heightInv_paintColor_independent {t : Raw α} {c : Color} :
...
+    -- Cannot be red:
+    -- - with nil childs: since left has a higher bh than right
+    -- - with red node childs: since ChildInv l doesnt allow for red-red connections
+    -- - with black node childs: since its an earlier case
+    . rename_i rnr ll lr ld hl1 hl2 hr1 hr2 lnb lnr
+      simp only [node.injEq, true_and, imp_false, not_and, forall_apply_eq_imp_iff₂, forall_apply_eq_imp_iff] at lnr
+      simp only [isBlack, Bool.false_eq_true, ↓reduceIte, blackHeight_red_node]
+      cases ll with
+      | nil =>
+        simp [heightInv_node, heightInv_nil, true_and] at hhl
```
Comment (hargoniX) [inline Filrb/Internal/Invariants/RBInv.lean]: Not in simp nf

**Review by hargoniX — CHANGES_REQUESTED** [review]
